US07179912B2
2-Hydroxy-5-morpholin-4-yl-benzoic acid methyl ester
A solution of 2-(tert-butyl-dimethyl-silanyloxy)-5-morpholin-4-yl-benzoic acid methyl ester (1.0 g, 2.8 mmol) in tetrahydrofuran (35 mL) was treated with tetrabutylammonium fluoride (3.55 g, 11.25 mmol) and stirred for 2 h at room temperature. The reaction mixture was concentrated and purified by flash chromatography (silica gel, 4×7.5 cm, eluted with 80/20 hexanes/EtOAc) to yield the final product as a yellow solid (206 mg, 31%).

reactant | 2-(tert-butyl-dimethyl-silanyloxy)-5-morpholin-4-yl-benzoic acid methyl ester | 2.8 mmol, 1.0 g | COC(C1=C(C=CC(=C1)N1CCOCC1)O[Si](C)(C)C(C)(C)C)=O | C18H29NO4Si
reactant | tetrabutylammonium fluoride | 11.25 mmol, 3.55 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
product | 2-Hydroxy-5-morpholin-4-yl-benzoic acid methyl ester | 206 mg, 31% | COC(C1=C(C=CC(=C1)N1CCOCC1)O)=O | C12H15NO4
